US05001137
2-Amino-3-(2-thenoyl)pyridine is reacted with 6-bromohexanoyl chloride in the presence of pyridine in dichloroethane to give 2-(6-bromohexanoylamino)-3-(2-thenoyl)pyridine.

reactant | 2-Amino-3-(2-thenoyl)pyridine | NC1=NC=CC=C1C(C1=CC=CS1)=O | C10H8N2OS
reactant | 6-bromohexanoyl chloride | BrCCCCCC(=O)Cl | C6H10BrClO
reactant | pyridine | N1=CC=CC=C1 | C5H5N
solvent | dichloroethane | ClC(C)Cl | C2H4Cl2
product | 2-(6-bromohexanoylamino)-3-(2-thenoyl)pyridine | BrCCCCCC(=O)NC1=NC=CC=C1C(C1=CC=CS1)=O | C16H17BrN2O2S
